US07404969B2
Dioleyloxybenzaldehyde, 3a
3,4-Dihydroxybenzaldehyde (2.76 g, 20.0 mmol) was weighed into a 200 mL round bottomed flask with a stir bar. The flask was charged with diglyme (100 mL), septum sealed and flushed with argon. Cesium carbonate (19.5 g, 60.0 mmol) was added to the solution slowly in portions. Oleyl mesylate (15.2 g, 44.0 mmol) was added via syringe. The reaction mixture was heated to 100° C. under slight positive pressure of argon. The reaction mixture was cooled to room temperature and filtered. The solids were washed with 1,2-dichloroethane. The combined filtrate and washes were concentrated and then dried under high vacuum at 65° C. to remove residual diglyme. The resultant yellow oil was purified via flash chromatography (5% ethyl acetate in hexanes) to afford 11.4 g (89%) of a yellow oil that turned to yellow wax upon standing at room temperature.

reactant | 3,4-Dihydroxybenzaldehyde | 20.0 mmol, 2.76 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | Cesium carbonate | 60.0 mmol, 19.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Oleyl mesylate | 44.0 mmol, 15.2 g | S(C)(=O)(=O)OCCCCCCCC\C=C/CCCCCCCC | C19H38O3S
solvent | diglyme | 100 mL | COCCOCCOC | C6H14O3
product | Dioleyloxybenzaldehyde | 11.4 g, 89% | C(CCCCCCC\C=C/CCCCCCCC)OC=1C(=C(C=O)C=CC1)OCCCCCCCC\C=C/CCCCCCCC | C43H74O3
